US08193236B2
3-(6-Dimethylaminomethyl-2-methyl-indolizin-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione
Potassium tert-butoxide (1.0 M in THF, 0.24 ml, 0.24 mmol, 3.0 equiv) is added dropwise at room temperature under an atmosphere of argon to a solution of (1H-indol-3-yl)-oxo-acetic acid methyl ester (19.2 mg, 0.090 mmol, 1.1 equiv) and of 2-(6-dimethylaminomethyl-2-methyl-indolizin-3-yl)-acetamide (20 mg, 0.08 mmol) in anhydrous tetrahydrofuran (1.0 ml, dried over molecular sieves). The reaction mixture is stirred for 30 minutes at room temperature. It is then diluted with EtOAc and poured into a saturated aqueous NH4Cl solution. After three extractions with EtOAc, the combined organic layers are dried over Na2SO4, filtered and concentrated in vacuo. Purification of the residue via preparative HPLC affords the title compound (2 mg, 6%) as its trifluoroacetate salt. 1H NMR (400 MHz, d6-DMSO): δ=11.78 (s, 1H), 10.91 (s, 1H), 9.51 (s, 1H), 8.33 (s, 1H), 7.99 (d, J=2.9 Hz, 1H), 7.54 (s, 1H), 7.35 (d, J=8.1 Hz, 1H), 7.03 (d, J=9.1 Hz, 1H), 6.95 (dt, J=8.0/1.2 Hz, 1H), 6.61 (dd, J=9.3/1.3 Hz, 1H), 6.52 (dt, J=8.1/1.0 Hz, 1H), 6.17 (d, J=8.0 Hz, 1H), 4.13 (s, 2H), 2.67 (s, 6H), 1.93 (s, 3H). MS (ES+): 399 (M+H)+.

reactant | Potassium tert-butoxide | 0.24 mmol, 1.0 M, 0.24 ml, 3.0 equiv | CC(C)([O-])C.[K+]
reactant | (1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.090 mmol, 19.2 mg, 1.1 equiv | COC(C(=O)C1=CNC2=CC=CC=C12)=O | C11H9NO3
reactant | 2-(6-dimethylaminomethyl-2-methyl-indolizin-3-yl)-acetamide | 0.08 mmol, 20 mg | CN(C)CC1=CN2C(=C(C=C2C=C1)C)CC(=O)N | C14H19N3O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(6-Dimethylaminomethyl-2-methyl-indolizin-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 2 mg, 6% | CN(C)CC1=CN2C(=C(C=C2C=C1)C)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C24H22N4O2
